US07173043B2
To 540 mg (11.37 mmol) 2-(Ethyl-{4-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-amino)-ethanol in 6 ml CH2Cl2 were added 0.22 ml (1.7 mmol) DAST at −78° C. After stirring at that temperature for 3.5 h, additional 0.2 ml (1.6 mmol) DAST were added and the mixture was slowly warmed to RT over night. The solution was added to a cooled aqueous solution of Na2CO3 and extracted with EtOAc. The organic phase was washed with brine and dried over Na2SO4. Column chromatography CH2Cl2:MeOH 95:5 yielded 79.3 mg (16%) Ethyl-(2-fluoro-ethyl)-{4-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-amine as brown oil, MS: 441 (MH+).

reactant | 2-(Ethyl-{4-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-amino)-ethanol | 11.37 mmol, 540 mg | C(C)N(CCO)CCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C22H25F3N2O2S
reactant | DAST | 1.7 mmol, 0.22 ml | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | DAST | 1.6 mmol, 0.2 ml | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 6 ml | C(Cl)Cl | CH2Cl2
product | Ethyl-(2-fluoro-ethyl)-{4-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-amine | 79.3 mg, 16% | C(C)N(CCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1)CCF | C22H24F4N2OS
